### PR TITLE
[Merged by Bors] - chore(Category/TopCat): cleanup

### PR DESCRIPTION
**Pull request by dagurtomas**
This PR removes an instance (`ConcreteCategory.instFunLike`) that was mistakenly made global during the port and starts the clean up. It significantly speeds up CI since simp is more efficient.

Unfortunately, some `simp`'s and `rw`'s needed to be changed to `erw` as a result.

Zulip discussion: [#mathlib4 > ConcreteCategory.instFunLike became a global instance](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/ConcreteCategory.2EinstFunLike.20became.20a.20.20global.20instance)

Issue: #13342 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mattrobball** [comment]
!bench

**Comment by erdOne** [comment]
I removed the comments in `Topology/Sheaves/*` as the file is designed to have this instance on.

File: Mathlib/MeasureTheory/Category/MeasCat.lean [hunk 1]
```diff
@@ -77,6 +77,8 @@ instance : ConcreteCategory MeasCat := by
 instance : Inhabited MeasCat :=
   ⟨MeasCat.of Empty⟩
 
+attribute [local instance] ConcreteCategory.instFunLike -- TODO remove this?
```
Comment (semorrison) [inline Mathlib/MeasureTheory/Category/MeasCat.lean:80]:
```suggestion
-- This was a global instance prior to #13170. We may experiment with removing it.
attribute [local instance] ConcreteCategory.instFunLike 
```

File: Mathlib/Topology/Category/CompHaus/Basic.lean [hunk 2]
```diff
@@ -32,6 +33,8 @@ introduced.
 
 universe v u
 
+attribute [local instance] CategoryTheory.ConcreteCategory.instFunLike -- TODO remove this?
```
Comment (semorrison) [inline Mathlib/Topology/Category/CompHaus/Basic.lean:36]:
```suggestion
-- This was a global instance prior to #13170. We may experiment with removing it.
attribute [local instance] CategoryTheory.ConcreteCategory.instFunLike
```

File: Mathlib/Topology/Category/CompHaus/EffectiveEpi.lean [hunk 3]
```diff
@@ -35,6 +35,10 @@ As a consequence, we obtain instances that `CompHaus` is precoherent and preregu
 
 universe u
 
+attribute [local instance] CategoryTheory.ConcreteCategory.instFunLike
+/- Previously, this had accidentally been made a global instance, and we now turn it on locally as
+convenient. -/
```
Comment (semorrison) [inline Mathlib/Topology/Category/CompHaus/EffectiveEpi.lean:40]:
```suggestion
/-
Previously, this had accidentally been made a global instance,
and we now turn it on locally as convenient.
-/
attribute [local instance] CategoryTheory.ConcreteCategory.instFunLike
```
Comments always go *before* the thing they are commenting on! (Unless they are on the same line, I guess.)

File: Mathlib/Topology/Category/CompHaus/Limits.lean [hunk 4]
```diff
@@ -24,6 +24,10 @@ So far, we have the following:
 
 namespace CompHaus
 
+attribute [local instance] CategoryTheory.ConcreteCategory.instFunLike
+/- Previously, this had accidentally been made a global instance, and we now turn it on locally as
+convenient. -/
```
Comment (semorrison) [inline Mathlib/Topology/Category/CompHaus/Limits.lean:29]:
```suggestion
/-
Previously, this had accidentally been made a global instance, 
and we now turn it on locally as convenient.
-/
attribute [local instance] CategoryTheory.ConcreteCategory.instFunLike
```

File: Mathlib/Topology/Category/LightProfinite/Basic.lean [hunk 5]
```diff
@@ -26,6 +26,8 @@ universe u
 
 open CategoryTheory Limits Opposite FintypeCat
 
+attribute [local instance] ConcreteCategory.instFunLike -- TODO remove this?
```
Comment (semorrison) [inline Mathlib/Topology/Category/LightProfinite/Basic.lean:29]:
```suggestion
open CategoryTheory Limits Opposite FintypeCat

-- This was a global instance prior to #13170. We may experiment with removing it.
attribute [local instance] ConcreteCategory.instFunLike
```

File: Mathlib/Topology/Category/LightProfinite/EffectiveEpi.lean [hunk 6]
```diff
@@ -18,6 +18,10 @@ that it is `Precoherent`.
 
 universe u
 
+attribute [local instance] CategoryTheory.ConcreteCategory.instFunLike
+/- Previously, this had accidentally been made a global instance, and we now turn it on locally as
+convenient. -/
```
Comment (semorrison) [inline Mathlib/Topology/Category/LightProfinite/EffectiveEpi.lean:23]:
```suggestion
/-
Previously, this had accidentally been made a global instance, 
and we now turn it on locally as convenient.
-/
attribute [local instance] CategoryTheory.ConcreteCategory.instFunLike
```

File: Mathlib/Topology/Category/LightProfinite/IsLight.lean [hunk 7]
```diff
@@ -34,6 +34,8 @@ universe u
 
 open CategoryTheory Limits FintypeCat Opposite TopologicalSpace
 
+attribute [local instance] ConcreteCategory.instFunLike -- TODO remove this?
```
Comment (semorrison) [inline Mathlib/Topology/Category/LightProfinite/IsLight.lean:37]:
```suggestion
-- This was a global instance prior to #13170. We may experiment with removing it.
attribute [local instance] ConcreteCategory.instFunLike
```

File: Mathlib/Topology/Category/LightProfinite/Limits.lean [hunk 8]
```diff
@@ -23,6 +23,10 @@ which may be useful due to their definitional properties.
 
 universe u w
 
+attribute [local instance] CategoryTheory.ConcreteCategory.instFunLike
+/- Previously, this had accidentally been made a global instance, and we now turn it on locally as
+convenient. -/
```
Comment (semorrison) [inline Mathlib/Topology/Category/LightProfinite/Limits.lean:28]:
```suggestion
/-
Previously, this had accidentally been made a global instance,
and we now turn it on locally as convenient.
-/
attribute [local instance] CategoryTheory.ConcreteCategory.instFunLike
```

File: Mathlib/Geometry/RingedSpace/PresheafedSpace/Gluing.lean [hunk 9]
```diff
@@ -261,15 +262,16 @@ theorem ι_image_preimage_eq (i j : D.J) (U : Opens (D.U i).carrier) :
...
   · refine Eq.trans (D.toTopGlueData.preimage_image_eq_image' _ _ _) ?_
     dsimp
-    rw [coe_comp, Set.image_comp]
+    rw [Set.image_comp]
     refine congr_arg (_ '' ·) ?_
     rw [Set.eq_preimage_iff_image_eq, ← Set.image_comp]
     swap
-    · apply CategoryTheory.ConcreteCategory.bijective_of_isIso
+    · change Function.Bijective ((CategoryTheory.forget _).map (D.t j i).base)
+      apply CategoryTheory.ConcreteCategory.bijective_of_isIso
```
Comment (kbuzzard) [inline Mathlib/Geometry/RingedSpace/PresheafedSpace/Gluing.lean:270]: Can you avoid `change` if you use `refine` or `exact` rather than `apply`?

File: Mathlib/AlgebraicGeometry/AffineScheme.lean [hunk 10]
```diff
@@ -515,11 +515,12 @@ theorem fromSpec_primeIdealOf (x : U) :
   -- Porting note: in the porting note of `Scheme.comp_val_base`, it says that `elementwise` is
   -- unnecessary, indeed, the linter did not like it, so I just use `elementwise_of%` instead of
   -- adding the corresponding lemma in `Scheme.lean` file
-  rw [← elementwise_of% Scheme.comp_val_base]
+  erw [← elementwise_of% Scheme.comp_val_base] -- now `erw` after #13170
   simp only [Scheme.Γ_obj, unop_op, Scheme.restrict_presheaf_obj, Category.assoc, ←
     Functor.map_comp_assoc, ← op_comp, ← Functor.map_comp, eqToHom_trans, eqToHom_refl, op_id,
     CategoryTheory.Functor.map_id, Category.id_comp, Iso.hom_inv_id_assoc,
     Scheme.ofRestrict_val_base, Scheme.restrict_carrier, Opens.coe_inclusion]
+  rfl -- now `rfl` after #13170
```
Comment (kbuzzard) [inline Mathlib/AlgebraicGeometry/AffineScheme.lean:523]:
```suggestion
  rfl -- `rfl` was not needed before #13170
```

File: Mathlib/AlgebraicGeometry/Gluing.lean [hunk 11]
```diff
@@ -249,7 +247,9 @@ theorem ι_eq_iff (i j : D.J) (x : (D.U i).carrier) (y : (D.U j).carrier) :
       D.toLocallyRingedSpaceGlueData.toSheafedSpaceGlueData.toPresheafedSpaceGlueData.toTopGlueData
       i j x y)
   rw [← ((TopCat.mono_iff_injective D.isoCarrier.inv).mp _).eq_iff]
-  · simp_rw [← comp_apply, ← D.ι_isoCarrier_inv]; rfl
+  · erw [← comp_apply] -- now `erw` after #13170
+    simp_rw [← D.ι_isoCarrier_inv]
+    rfl -- now `rfl` after #13170
```
Comment (kbuzzard) [inline Mathlib/AlgebraicGeometry/Gluing.lean:252]:
```suggestion
    rfl -- `rfl` was not needed before #13170
```

File: Mathlib/Geometry/RingedSpace/OpenImmersion.lean [hunk 12]
```diff
@@ -364,10 +365,19 @@ def pullbackConeOfLeftFst :
...
-                    exact ⟨_, h₁, ConcreteCategory.congr_hom pullback.condition x⟩))
+                    simp only [TopCat.coe_of, restrict_carrier, Set.preimage_id', Set.mem_preimage,
+                      SetLike.mem_coe]
+                    constructor
+                    · change _ ∈ U.unop at h₁
+                      convert h₁
+                      erw [TopCat.pullbackIsoProdSubtype_inv_fst_apply]
+                    · erw [TopCat.pullbackIsoProdSubtype_inv_snd_apply]
+                  · rintro _ ⟨x, h₁, rfl⟩ -- used to be an `exact` before #13170
+                    refine ⟨_, h₁, ?_⟩
```
Comment (kbuzzard) [inline Mathlib/Geometry/RingedSpace/OpenImmersion.lean:378]:
```suggestion
                  · rintro _ ⟨x, h₁, rfl⟩
                    -- next line used to be `exact ⟨_, h₁, ConcreteCategory.congr_hom pullback.condition x⟩))` before #13170
                    refine ⟨_, h₁, ?_⟩ 
```

File: Mathlib/Topology/Category/TopCat/Limits/Products.lean [hunk 13]
```diff
@@ -257,27 +253,35 @@ theorem range_prod_map {W X Y Z : TopCat.{u}} (f : W ⟶ Y) (g : X ⟶ Z) :
   ext x
   constructor
   · rintro ⟨y, rfl⟩
-    simp_rw [Set.mem_inter_iff, Set.mem_preimage, Set.mem_range, ← comp_apply, Limits.prod.map_fst,
-      Limits.prod.map_snd, comp_apply, exists_apply_eq_apply, and_self_iff]
+    simp_rw [Set.mem_inter_iff, Set.mem_preimage, Set.mem_range] -- sizable changes after #13170
```
Comment (kbuzzard) [inline Mathlib/Topology/Category/TopCat/Limits/Products.lean:256]:
```suggestion
    simp_rw [Set.mem_inter_iff, Set.mem_preimage, Set.mem_range] -- sizable changes in this proof after #13170
```

File: Mathlib/Topology/Category/TopCat/Limits/Products.lean [hunk 14]
```diff
@@ -257,27 +253,35 @@ theorem range_prod_map {W X Y Z : TopCat.{u}} (f : W ⟶ Y) (g : X ⟶ Z) :
...
 
 theorem inducing_prod_map {W X Y Z : TopCat.{u}} {f : W ⟶ X} {g : Y ⟶ Z} (hf : Inducing f)
     (hg : Inducing g) : Inducing (Limits.prod.map f g) := by
   constructor
-  simp_rw [prod_topology, induced_inf, induced_compose, ← coe_comp, prod.map_fst, prod.map_snd,
-    coe_comp, ← induced_compose (g := f), ← induced_compose (g := g), ← hf.induced, ← hg.induced]
+  simp_rw [topologicalSpace_coe, prod_topology, induced_inf, induced_compose, ← coe_comp,
+    prod.map_fst, prod.map_snd, coe_comp, ← induced_compose (g := f), ← induced_compose (g := g)]
+  erw [← hf.induced, ← hg.induced] -- now `erw` after #13170
+  rfl -- now `rfl` after #13170
```
Comment (kbuzzard) [inline Mathlib/Topology/Category/TopCat/Limits/Products.lean:284]:
```suggestion
  rfl -- `rfl` was not needed before #13170
```

File: Mathlib/Topology/Category/TopCat/Limits/Products.lean [hunk 15]
```diff
@@ -327,10 +331,10 @@ theorem binaryCofan_isColimit_iff {X Y : TopCat} (c : BinaryCofan X Y) :
         (binaryCofanIsColimit X Y)).symm.openEmbedding.comp openEmbedding_inl,
           (homeoOfIso <| h.coconePointUniqueUpToIso
             (binaryCofanIsColimit X Y)).symm.openEmbedding.comp openEmbedding_inr, ?_⟩
-      erw [Set.range_comp, ← eq_compl_iff_isCompl, coe_comp, coe_comp, Set.range_comp _ Sum.inr,
+      erw [Set.range_comp, ← eq_compl_iff_isCompl, Set.range_comp _ Sum.inr,
         ← Set.image_compl_eq (homeoOfIso <| h.coconePointUniqueUpToIso
             (binaryCofanIsColimit X Y)).symm.bijective, Set.compl_range_inr, Set.image_comp]
-      aesop
+           -- now `erw` after #13170
```
Comment (kbuzzard) [inline Mathlib/Topology/Category/TopCat/Limits/Products.lean:337]:
```suggestion
```

File: Mathlib/Topology/Category/TopCat/Limits/Products.lean [hunk 16]
```diff
@@ -377,7 +381,9 @@ theorem binaryCofan_isColimit_iff {X Y : TopCat} (c : BinaryCofan X Y) :
         ext x
         refine (dif_pos ?_).trans ?_
         · exact ⟨x, rfl⟩
-        · dsimp; conv_lhs => erw [Equiv.ofInjective_symm_apply]
+        · dsimp
+          conv_lhs => erw [Equiv.ofInjective_symm_apply]
+          rfl -- now `rfl` after #13170
```
Comment (kbuzzard) [inline Mathlib/Topology/Category/TopCat/Limits/Products.lean:386]:
```suggestion
          rfl -- `rfl` was not needed here before #13170
```

File: Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean [hunk 17]
```diff
@@ -221,48 +218,58 @@ theorem range_pullback_map {W X Y Z S T : TopCat} (f₁ : W ⟶ S) (f₂ : X ⟶
...
+    exact ⟨exists_apply_eq_apply _ _, exists_apply_eq_apply _ _⟩
   rintro ⟨⟨x₁, hx₁⟩, ⟨x₂, hx₂⟩⟩
   have : f₁ x₁ = f₂ x₂ := by
     apply (TopCat.mono_iff_injective _).mp H₃
-    simp only [← comp_apply, eq₁, eq₂]
-    simp only [comp_apply, hx₁, hx₂]
-    simp only [← comp_apply, pullback.condition]
+    erw [← comp_apply, eq₁, ← comp_apply, eq₂, -- now `erw` after #13170
+      comp_apply, comp_apply, hx₁, hx₂, ← comp_apply, pullback.condition]
+    rfl -- now `rfl` after #13170
```
Comment (kbuzzard) [inline Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean:230]:
```suggestion
    rfl -- `rfl` was not needed before #13170
```

File: Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean [hunk 18]
```diff
@@ -221,48 +218,58 @@ theorem range_pullback_map {W X Y Z S T : TopCat} (f₁ : W ⟶ S) (f₂ : X ⟶
...
-  · simp only [cospan_one, pullbackIsoProdSubtype_inv_fst_assoc, comp_apply,
-      pullbackFst_apply, hx₁]
+  erw [← comp_apply, ← comp_apply] -- now `erw` after #13170
+  simp only [Category.assoc, limit.lift_π, PullbackCone.mk_π_app_one]
+  · simp only [cospan_one, pullbackIsoProdSubtype_inv_fst_assoc, comp_apply]
+    erw [pullbackFst_apply, hx₁]
     rw [← limit.w _ WalkingCospan.Hom.inl, cospan_map_inl, comp_apply (g := g₁)]
-  · simp [hx₁]
-  · simp [hx₂]
+    rfl -- now `rfl` after #13170
```
Comment (kbuzzard) [inline Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean:240]:
```suggestion
    rfl -- `rfl` was not needed before #13170
```

File: Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean [hunk 19]
```diff
@@ -221,48 +218,58 @@ theorem range_pullback_map {W X Y Z S T : TopCat} (f₁ : W ⟶ S) (f₂ : X ⟶
...
+  · simp only [cospan_left, limit.lift_π, PullbackCone.mk_pt, PullbackCone.mk_π_app,
+      pullbackIsoProdSubtype_inv_fst_assoc, comp_apply]
+    erw [hx₁] -- now `erw` after #13170
+    rfl -- now `rfl` after #13170
```
Comment (kbuzzard) [inline Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean:244]:
```suggestion
    rfl -- `rfl` was not needed before #13170
```

File: Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean [hunk 20]
```diff
@@ -221,48 +218,58 @@ theorem range_pullback_map {W X Y Z S T : TopCat} (f₁ : W ⟶ S) (f₂ : X ⟶
...
+  · simp only [cospan_right, limit.lift_π, PullbackCone.mk_pt, PullbackCone.mk_π_app,
+      pullbackIsoProdSubtype_inv_snd_assoc, comp_apply]
+    erw [hx₂] -- now `erw` after #13170
+    rfl -- now `rfl` after #13170
```
Comment (kbuzzard) [inline Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean:248]:
```suggestion
    rfl -- `rfl` was not needed before #13170
```

File: Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean [hunk 21]
```diff
@@ -401,24 +408,32 @@ theorem pullback_snd_image_fst_preimage (f : X ⟶ Z) (g : Y ⟶ Z) (U : Set X)
       g ⁻¹' (f '' U) := by
   ext x
   constructor
-  · rintro ⟨y, hy, rfl⟩
+  · rintro ⟨(y : (forget TopCat).obj _), hy, rfl⟩
     exact
       ⟨(pullback.fst : pullback f g ⟶ _) y, hy, ConcreteCategory.congr_hom pullback.condition y⟩
-  · rintro ⟨y, hy, eq⟩
-    exact ⟨(TopCat.pullbackIsoProdSubtype f g).inv ⟨⟨_, _⟩, eq⟩, by simpa, by simp⟩
+  · rintro ⟨y, hy, eq⟩ -- was an `exact` before #13170
```
Comment (kbuzzard) [inline Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean:414]:
```suggestion
  · rintro ⟨y, hy, eq⟩
  -- next 5 lines were `exact ⟨(TopCat.pullbackIsoProdSubtype f g).inv ⟨⟨_, _⟩, eq⟩, by simpa, by simp⟩` before #13170
```

File: Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean [hunk 22]
```diff
@@ -401,24 +408,32 @@ theorem pullback_snd_image_fst_preimage (f : X ⟶ Z) (g : Y ⟶ Z) (U : Set X)
...
   ext x
   constructor
-  · rintro ⟨y, hy, rfl⟩
+  · rintro ⟨(y : (forget TopCat).obj _), hy, rfl⟩
     exact
       ⟨(pullback.snd : pullback f g ⟶ _) y, hy,
         (ConcreteCategory.congr_hom pullback.condition y).symm⟩
-  · rintro ⟨y, hy, eq⟩
-    exact ⟨(TopCat.pullbackIsoProdSubtype f g).inv ⟨⟨_, _⟩, eq.symm⟩, by simpa, by simp⟩
+  · rintro ⟨y, hy, eq⟩ -- was an `exact` before #13170
```
Comment (kbuzzard) [inline Mathlib/Topology/Category/TopCat/Limits/Pullbacks.lean:431]:
```suggestion
  · rintro ⟨y, hy, eq⟩
    -- next 5 lines were `exact ⟨(TopCat.pullbackIsoProdSubtype f g).inv ⟨⟨_, _⟩, eq.symm⟩, by simpa, by simp⟩` before #13170
```

File: Mathlib/Topology/Gluing.lean [hunk 23]
```diff
@@ -131,13 +132,16 @@ set_option linter.uppercaseLean3 false in
 theorem rel_equiv : Equivalence D.Rel :=
   ⟨fun x => Or.inl (refl x), by
     rintro a b (⟨⟨⟩⟩ | ⟨x, e₁, e₂⟩)
-    exacts [Or.inl rfl, Or.inr ⟨D.t _ _ x, by simp [e₁, e₂]⟩], by
+    exacts [Or.inl rfl, Or.inr ⟨D.t _ _ x, e₂, by erw [← e₁, D.t_inv_apply]⟩], by
+     -- now `erw` after #13170
```
Comment (kbuzzard) [inline Mathlib/Topology/Gluing.lean:136]:
```suggestion
     -- previous line now `erw` after #13170
```

**Comment by eric-wieser** [comment]
Can you add a description to summarize the changes, perhaps linking the Zulip thread(s)?

File: Mathlib/Topology/Category/CompHaus/EffectiveEpi.lean [hunk 24]
```diff
@@ -35,6 +35,12 @@ As a consequence, we obtain instances that `CompHaus` is precoherent and preregu
 
 universe u
 
+/-
+Previously, this had accidentally been made a global instance,
+and we now turn it on locally as convenient.
```
Comment (jcommelin) [inline Mathlib/Topology/Category/CompHaus/EffectiveEpi.lean:40]:
```suggestion
and we now turn it on locally as convenience.
```

File: Mathlib/Topology/Category/CompHaus/Limits.lean [hunk 25]
```diff
@@ -24,6 +24,12 @@ So far, we have the following:
 
 namespace CompHaus
 
+/-
+Previously, this had accidentally been made a global instance,
+and we now turn it on locally as convenient.
```
Comment (jcommelin) [inline Mathlib/Topology/Category/CompHaus/Limits.lean:29]:
```suggestion
and we now turn it on locally as convenience.
```

File: Mathlib/Topology/Category/LightProfinite/EffectiveEpi.lean [hunk 26]
```diff
@@ -18,6 +18,12 @@ that it is `Precoherent`.
 
 universe u
 
+/-
+Previously, this had accidentally been made a global instance,
+and we now turn it on locally as convenient.
```
Comment (jcommelin) [inline Mathlib/Topology/Category/LightProfinite/EffectiveEpi.lean:23]:
```suggestion
and we now turn it on locally as convenience.
```

File: Mathlib/Topology/Category/LightProfinite/Limits.lean [hunk 27]
```diff
@@ -23,6 +23,12 @@ which may be useful due to their definitional properties.
 
 universe u w
 
+/-
+Previously, this had accidentally been made a global instance,
+and we now turn it on locally as convenient.
```
Comment (jcommelin) [inline Mathlib/Topology/Category/LightProfinite/Limits.lean:28]:
```suggestion
and we now turn it on locally as convenience.
```

File: Mathlib/Topology/Category/Profinite/EffectiveEpi.lean [hunk 28]
```diff
@@ -33,6 +33,12 @@ As a consequence, we obtain instances that `Profinite` is precoherent and prereg
 
 universe u
 
+/-
+Previously, this had accidentally been made a global instance,
+and we now turn it on locally as convenient.
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/EffectiveEpi.lean:38]:
```suggestion
and we now turn it on locally as convenience.
```

File: Mathlib/Topology/Category/Profinite/Limits.lean [hunk 29]
```diff
@@ -25,6 +25,12 @@ namespace Profinite
 
 universe u w
 
+/-
+Previously, this had accidentally been made a global instance,
+and we now turn it on locally as convenient.
```
Comment (jcommelin) [inline Mathlib/Topology/Category/Profinite/Limits.lean:30]:
```suggestion
and we now turn it on locally as convenience.
```

**Review by jcommelin — COMMENTED** [review]
Nitpick english comment. Unless I messed up. (Not a native speaker.)

File: Mathlib/Topology/Category/CompHaus/EffectiveEpi.lean (hunk 24 above)
Comment (eric-wieser) [reply Mathlib/Topology/Category/CompHaus/EffectiveEpi.lean:40]:
```suggestion
and we now turn it on locally for convenience.
```
or
```suggestion
and we now turn it on locally when convenient.
```
I think are both better

Comment (kbuzzard) [reply Mathlib/Topology/Category/CompHaus/EffectiveEpi.lean:40]: FWIW I vote for "when convenient".

**Comment by kbuzzard** [comment]
Thanks!

bors merge

**Comment by MichaelStollBayreuth** [comment]
Late to the party, but here are more detailed results from the comparison above:
```text
General information:
  lint:                                                -260.80 * 10⁹ (-2.16%)
  build:                                               -161.69 * 10⁹ (-0.139%)

No file got slower by at least 10⁹ instructions.

No file got slower by at least 10%.

Files that got faster by at least 10⁹ instructions:
  Mathlib.AlgebraicGeometry.Gluing:                    -24.491 * 10⁹ (-25.5%)
  Mathlib.Geometry.RingedSpace.PresheafedSpace.Gluing:
                                                       -13.181 * 10⁹ (-3.40%)
  Mathlib.AlgebraicGeometry.Morphisms.QuasiSeparated:  -10.915 * 10⁹ (-7.32%)
  Mathlib.AlgebraicGeometry.Restrict:                  -8.9381 * 10⁹ (-3.99%)
  Mathlib.Geometry.RingedSpace.PresheafedSpace:        -8.5588 * 10⁹ (-8.30%)
  Mathlib.Geometry.RingedSpace.OpenImmersion:          -8.5006 * 10⁹ (-4.41%)
  Mathlib.AlgebraicGeometry.Morphisms.RingHomProperties:
                                                       -8.1320 * 10⁹ (-2.52%)
  Mathlib.Topology.Category.TopCat.Limits.Products:    -7.5619 * 10⁹ (-16.8%)
  Mathlib.Topology.Sheaves.Stalks:                     -7.5011 * 10⁹ (-5.55%)
  Mathlib.Geometry.RingedSpace.PresheafedSpace.HasColimits:
                                                       -6.7390 * 10⁹ (-4.83%)
  Mathlib.Topology.Category.TopCat.Limits.Pullbacks:   -5.4874 * 10⁹ (-12.0%)
  Mathlib.AlgebraicGeometry.OpenImmersion:             -5.3314 * 10⁹ (-7.88%)
  Mathlib.Geometry.RingedSpace.Stalks:                 -4.6689 * 10⁹ (-9.69%)
  Mathlib.AlgebraicGeometry.Properties:                -4.2538 * 10⁹ (-7.51%)
  Mathlib.Topology.Gluing:                             -4.0383 * 10⁹ (-6.38%)
  Mathlib.AlgebraicGeometry.AffineScheme:              -3.3577 * 10⁹ (-1.43%)
  Mathlib.Topology.Category.TopCat.OpenNhds:           -3.2756 * 10⁹ (-14.0%)
  Mathlib.Topology.Sheaves.Presheaf:                   -3.0251 * 10⁹ (-2.82%)
  Mathlib.AlgebraicGeometry.Spec:                      -2.8423 * 10⁹ (-2.52%)
  Mathlib.AlgebraicGeometry.Morphisms.QuasiCompact:    -2.5017 * 10⁹ (-5.89%)
  Mathlib.Topology.Category.TopCat.Opens:              -2.3966 * 10⁹ (-4.73%)
  Mathlib.AlgebraicGeometry.FunctionField:             -1.5437 * 10⁹ (-5.05%)
  Mathlib.Analysis.NormedSpace.PiTensorProduct.InjectiveSeminorm:
                                                       -1.4668 * 10⁹ (-0.532%)
  Mathlib.Geometry.RingedSpace.LocallyRingedSpace.HasColimits:
                                                       -1.0794 * 10⁹ (-3.07%)
  Mathlib.CategoryTheory.Limits.FilteredColimitCommutesFiniteLimit:
                                                       -1.0399 * 10⁹ (-2.65%)

Files that got faster by at leat 10%:
  Mathlib.AlgebraicGeometry.Gluing:                                   -25.5%
  Mathlib.Topology.Category.TopCat.Limits.Products:                   -16.8%
  Mathlib.Topology.Category.TopCat.OpenNhds:                          -14.0%
  Mathlib.Topology.Category.TopCat.Limits.Pullbacks:                  -12.0%
```
